US04999378
(1) Methyl 4-[3-[N-carbamoyl-N-(4-chlorophenyl)amino]propoxy]benzoate
Methyl 4-[3-[N-(4-chlorophenyl)amino]propoxy]benzoate (2.5 g) and sodium cyanate (1.02 g) were dissolved and suspended in benzene (7.5 g), and to the mixture was added dropwise trifuluoroacetic acid (1.19 g) under heating with stirring at 40° C. Three hours later, the reaction solution was concentrated under reduced pressure, and water was added to the residue. The resulting precipitate was crushed, and collected by filtration to give the desired product (2.82 g). mp. 141°-142° C.

reactant | Methyl 4-[3-[N-(4-chlorophenyl)amino]propoxy]benzoate | 2.5 g | ClC1=CC=C(C=C1)NCCCOC1=CC=C(C(=O)OC)C=C1 | C17H18ClNO3
reactant | sodium cyanate | 1.02 g | [O-]C#N.[Na+]
solvent | benzene | 7.5 g | C1=CC=CC=C1 | C6H6
product | Methyl 4-[3-[N-carbamoyl-N-(4-chlorophenyl)amino]propoxy]benzoate | 2.82 g | C(N)(=O)N(C1=CC=C(C=C1)Cl)CCCOC1=CC=C(C(=O)OC)C=C1 | C18H19ClN2O4
